US07674912B2
1f: 4-Amino-3-bromo-N-thiazol-2-yl-benzamide:
4-Amino-3-bromo-benzoic acid (18.5 mmol) was dissolved in DMF (10 mL) and 1,2-dichloroethane (80 mL). DIPEA (18.5 mmol), 1-(3-dimethylaminopropyl)-3-ethyl-carbodiimide hydrochloride (18.5 mmol), 1-hydroxybenzotriazole (18.5 mmol) and 2-aminothiazole (18.5 mmol) was added and the reaction mixture was stirred at 60° C. over night. The volume was reduced in vacuo, and water (60 mL) was added. The mixture was extracted with ethyl acetate, the organic phase was washed with NH4Cl (aq., sat.), dried over MgSO4, filtered and evaporated. The crude product was purified by flash chromatography on silica using gradient elution (heptane/ethyl acetate).

reactant | 4-Amino-3-bromo-benzoic acid | 18.5 mmol | NC1=C(C=C(C(=O)O)C=C1)Br | C7H6BrNO2
reactant | DIPEA | 18.5 mmol | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-(3-dimethylaminopropyl)-3-ethyl-carbodiimide hydrochloride | 18.5 mmol | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 18.5 mmol | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 2-aminothiazole | 18.5 mmol | NC=1SC=CN1 | C3H4N2S
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | 1,2-dichloroethane | 80 mL | ClCCCl | C2H4Cl2
solvent | water | 60 mL | O | H2O
product | 4-Amino-3-bromo-N-thiazol-2-yl-benzamide | NC1=C(C=C(C(=O)NC=2SC=CN2)C=C1)Br | C10H8BrN3OS
